US07385066B2
4-Bromo-5-chloro-thiophene-2-carbonitrile
Hydroxylamine hydrochloride (Aldrich, 4.91 g, 70.66 mmol) and triethylamine (anhydrous, 11.2 mL, 80.36 mmol) were added to a 0° C. solution of 4-bromo-5-chloro-thiophene-2-carbaldehyde (Example 24: step a, 10.63 g, 47.14 mmol) in acetonitrile (anhydrous, 250 mL). The reaction mixture was warmed to room temperature and stirred for 1 hour. Phthalic anhydride was added and the reaction mixture was heated to 80° C. overnight. The mixture was cooled to room temperature, diluted with ethyl acetate (400 mL), and washed with aqueous citric acid, saturated NaHCO3, water, and brine. The organic layer was dried over magnesium sulfate, filtered, concentrated in vacuo, and purified by column chromatography (silica gel, 5% ethyl acetate/hexanes) to afford the title compound as a pale yellow solid (9.76 g, 93% yield). 1H-NMR (CDCl3): δ 7.47 (s, 1H).

reactant | Hydroxylamine hydrochloride | 70.66 mmol, 4.91 g | Cl.NO
reactant | triethylamine | 80.36 mmol, 11.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-5-chloro-thiophene-2-carbaldehyde | BrC=1C=C(SC1Cl)C=O | C5H2BrClOS
reactant | Phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-5-chloro-thiophene-2-carbonitrile | 9.76 g, 93% yield | BrC=1C=C(SC1Cl)C#N | C5HBrClNS
